US08304438B2
3-[6-(2-Fluoro-phenyl)-pyridin-3-yl]-acryloyl chloride hydrochloride salt was prepared in quantitative yield by boiling 3-[6-(2-fluoro-phenyl)-pyridin-3-yl]-acrylic acid in thionyl chloride, followed by removal of the volatiles by coevaporating three times with toluene. 3-[6-(2-Fluoro-phenyl)-pyridin-3-yl]-acryloyl chloride hydrochloride salt was dissolved in pyridine, and 1 equivalent of the respective amine was added. The reaction mixture was stirred at room temperature for 2 h. The solvent was removed under reduced pressure, and residual pyridine was removed by coevaporating three times with toluene. The residue was dissolved in DMF, and the product was purified by preparative RP HPLC eluting with a gradient of 0 to 100% acetonitrile in water (+0.01% TFA). After lyophilization, the product was obtained as a solid.

reactant | 3-[6-(2-fluoro-phenyl)-pyridin-3-yl]-acrylic acid | FC1=C(C=CC=C1)C1=CC=C(C=N1)C=CC(=O)O | C14H10FNO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-[6-(2-Fluoro-phenyl)-pyridin-3-yl]-acryloyl chloride hydrochloride salt | quantitative yield | Cl.FC1=C(C=CC=C1)C1=CC=C(C=N1)C=CC(=O)Cl | InChI=1S/C14H9ClFNO.ClH/c15-14(18)8-6-10-5-7-13(17-9-10)11-3-1-2-4-12(11)16;/h1-9H;1H
